US08071592B2
7-Fluoro-1,5-naphthyridin-2(1H)-one (1.280 g, 7.798 mmol) and m-chloroperoxybenzoic acid (2.123 g, ca. 1.2 eq. based on an mCPBA content of 75%) were stirred in chloroform (60 mL) at reflux overnight. Further mCPBA (0.420 g) was added and the mixture was stirred at reflux for an additional 6 hours. The mixture was diluted with DCM to a total volume of ca. 100 ml and filtered with suction. The solid collected was washed with DCM (2×20 mL) and air-dried to give 7-fluoro-1,5-naphthyridin-2(1H)-one 5-oxide as a tan solid (1.045 g, contaminated with ca. 12% starting material).

reactant | 7-Fluoro-1,5-naphthyridin-2(1H)-one | 7.798 mmol, 1.280 g | FC1=CN=C2C=CC(NC2=C1)=O | C8H5FN2O
reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | mCPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | mCPBA | 0.420 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 7-fluoro-1,5-naphthyridin-2(1H)-one 5-oxide | FC=1C=[N+](C=2C=CC(NC2C1)=O)[O-] | C8H5FN2O2
